2194-03-31 07:12:00 Physician Resident Progress Note
Chief Complaint: hyperglycemia
   24 Hour Events:
 CALLED OUT
   - d/c'd insulin gtt
   - sugars continued to be elevated to high 300s, several titrations of
   sliding scale and NPH dose
   - coumadin held for supratherapeutic INR
   - lisinopril increased from 5mg to 10mg daily [**3-1**] BP's persistently in
   160s
   Allergies:
   Codeine
   Unknown; Nausea
   Aspirin
   Wheezing;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Diarrhea;
   Trazodone Hcl
   Unknown;
   Ibuprofen
   Abdominal pain;
   Atrovent (Inhalation) (Ipratropium Bromide)
   Nausea/Vomiting
   Reglan (Oral) (Metoclopramide Hcl)
   perioral dyskin
   Ampicillin
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   myalgia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-3-30**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2194-3-31**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, Dyspnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: No(t) Dysuria
   Musculoskeletal: Joint pain
   Flowsheet Data as of  [**2194-3-31**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 51 (51 - 85) bpm
   BP: 166/76(98) {109/66(76) - 180/88(111)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  3,203 mL
                  PO:
                                                                  1,770 mL
                  TF:
   IVF:
                                                                  1,433 mL
   Blood products:
   Total out:
                                                                  4,275 mL
                                                                      0 mL
   Urine:
                                                                  4,275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,073 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   b/l)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   211 K/uL
   10.4 g/dL
   301 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.9 mEq/L
   35 mg/dL
   100 mEq/L
   133 mEq/L
   32.2 %
   13.4 K/uL
        [image002.jpg]
                             [**2194-3-30**]  04:11 AM
                             [**2194-3-31**]  12:48 AM
   WBC
   15.3
   13.4
   Hct
   32.2
   32.2
   Plt
   242
   211
   Cr
   1.1
   1.2
   Glucose
   156
   301
   Other labs: PT / PTT / INR:21.6/31.7/2.1, Ca++:8.4 mg/dL, Mg++:2.2
   mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: FS- 156-411
   Assessment and Plan
   A/P Pt is a 55 y/o female w/ hx of DMII, CAD, HTN, and CHF (EF 55%) who
   presented w/ hyperglycemia.
   #Hyperglycemia: Patient w/ long history of diabets, followed by her PCP
   [**Last Name (NamePattern4) **]. [**Last Name (STitle) 1324**]. Last Hbg A1C of 9.3, new one pending.  Current
   hyperglycemia in the setting of steroid injection in ortho clinic. Pt
   developed BG > 600 and was symptomatic. No ketones in urine, and an AG
   of 15. AG closed w/ fluids.  Insulin gtt d/c'd yesterday, still w/
   persistently high BS.  SS increased, and sugars appear to b e moving in
   the correct direction.
   -- continue increased SS and fixed dose
   -- f/u pending HbgA1C
   # CAD: Patient w/ evidence of prior IMI and possible anterior MI on
   EKG. No current complaints of CP. EKG w/o any acute changes. Continue
   patients statin. Unclear why not on ASA, as is a DM w/ CAD. Also,
   patient not on BB, but suspect is related to hx of asthma.
   # HTN: Patient w/ hx of HTN. Hypertensive on this admission. Continue
   outpatinet regiment of verapimil and lisinopril. BP still elevated, LVH
   on EKG
   -- increased lisinopril dose
   # Diastolic HF: Patient [**Name (NI) **] in [**2193**] showed EF > 55% with symmetric LV
   hypterophy.  Unclear why patinet is not on BB. Will continue patients
   lasix 80mg daily and lisinopril.
   #Psych: Patient followed by Dr. [**Last Name (STitle) 1325**] as an outpatinet. Will continue OP
   regiment of wellbutrin, seroquel, and effexor.
   #PE: Patinet w/ hx of PE x 2. Takes coumadin at a stable dose of 7mg
   daily. INR on admission was 4.6, will hold coumadin, and restart when
   no nolonger supratherapeutic.
   #CRI: Per chart, patinet w/ hx of CRI, but baseline Cr of 1.0. Believed
   diabetic/htn nephropathy w/ protinuria. Cr on admission is 1.5. [**Month (only) 60**] be
   elevated from diuresis from hyper glycemia. Also, patient taking
   gabapentin as renally toxic levels. Will continue IVF hydration and see
   if resolves.
   Will continue patinets renagel and lisinopril.
   #Asthma: Patient w/ hx of asthma. Will continue singular and advair.
   Wheezy on exam, started albuterol nebs.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2194-3-29**] 10:32 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI+H2
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2194-03-31 13:23:00 Physician Attending Progress Note
Chief Complaint: hyperglycemia/HONK
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo F w/ DMII, cad, diastolic chf presents with hyperglycemia/anion
   gap (honk) following steroid injection for chronic knee pain.
   24 Hour Events:
   blood sugars remained elevated, adjusting ssi and nph dosing
   lisinopril dose increased for elevated am BP
   History obtained from Patient, house staff
   Allergies:
   Codeine
   Unknown; Nausea
   Aspirin
   Wheezing;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Diarrhea;
   Trazodone Hcl
   Unknown;
   Ibuprofen
   Abdominal pain;
   Atrovent (Inhalation) (Ipratropium Bromide)
   Nausea/Vomiting
   Reglan (Oral) (Metoclopramide Hcl)
   perioral dyskin
   Ampicillin
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   myalgia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-3-31**] 06:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: Wheeze
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2194-3-31**] 01:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 68 (51 - 70) bpm
   BP: 158/71(94) {109/66(76) - 177/88(111)} mmHg
   RR: 21 (12 - 23) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  3,203 mL
                  PO:
                                                                  1,770 mL
                  TF:
   IVF:
                                                                  1,433 mL
   Blood products:
   Total out:
                                                                  4,275 mL
                                                                      0 mL
   Urine:
                                                                  4,275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,073 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : ), good air,movement
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   211 K/uL
   301 mg/dL
   1.2 mg/dL (1.1 yesterday)
   24 mEq/L
   3.9 mEq/L
   35 mg/dL
   100 mEq/L
   133 mEq/L
   32.2 %
   13.4 K/uL
        [image002.jpg]
                             [**2194-3-30**]  04:11 AM
                             [**2194-3-31**]  12:48 AM
   WBC
   15.3
   13.4
   Hct
   32.2
   32.2
   Plt
   242
   211
   Cr
   1.1
   1.2
   Glucose
   156
   301
   Other labs: PT / PTT / INR:21.6/31.7/2.1, Ca++:8.4 mg/dL, Mg++:2.2
   mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: cs--156--411
   Imaging: no imaging
   Microbiology: no new data
   u/a negative
   Assessment and Plan
   55 yo F w/  DMII, cad, htn, diastolic chf presents with
   hyperglycemia/anion gap (honk) following steroid injection for chronic
   knee pain.
   Improved control obtained with insulin drip and transitioned from drip
   to NPH and humalog with SSI though still with suboptimal control,
   likely related to diet and recent steroids.  She has no infectious
   signs or symptoms to suggest additional etiology Adjusting nph and
   sliding scale doses.  Consider [**Last Name (un) 276**] consult as pt is not followed by
   [**Last Name (un) 276**] as outpt but may benefit, given elevated Hb a1C.   Pt reports
   having similar acute hyperglycemia in past with steroid injections as
   well as oral steroids (for asthma).
   Additional issues include:
        -CRI--noted to have mild creatinine elevation on admit, in setting
   of hyperglycemia, now at baseline after IVFs.  Monitor with increased
   ace-i dose
        -Supratherapeutic INR.  Coumadin held and now 2.1,  Restarting at
   home dose--continue to monitor given high level on admit.
        -Leukocytosis-likely from steroids and now normalizing, cx if
   spikes, u/a clean and knee without evidence of infection.
        -HTN/ddfx--adjusting home meds for improved control-- increasing
   lisinopril dose today
        ? OSA--would benefit from outpt sleep evaluation, and has multiple
   risks for sleep disordered breathing with dm and chf
   ICU Care
   Nutrition:
   Diabetic diet
   Glycemic Control:  Regular insulin sliding scale, Comments: NPH
   Lines:
   20 Gauge - [**2194-3-29**] 10:32 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker and ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor once sugars are better controlled and
   stable
   Total time spent: 35 minutes